US07723329B2
3-(1-Naphthylsulfonyl)-5-(piperazin-1-ylmethyl)-1H-indazole
2-[3-(Naphthalene-1-sulfonylmethyl)-4-nitro-phenyl]-[1,3]dioxolane A mixture of 2-(4-nitro-phenyl)-[1,3]dioxolane (1.85 g, 9.5 mmoles) and 1-chloromethane-sulfonyl-naphthalene (2.74 g, 11.4 mmoles) was stirred in THF (50 ml) at −78° C., in a round bottom flask under nitrogen. A solution of 1M potassium t-butoxide was added dropwise (19 ml, 19 mmoles) over a half an hour period. Temperature was allowed to rise to −40° C., and the reaction mixture was stirred at this temperature for 5 hours. The reaction mixture was poured into cold 2N HCl, extracted with EtOAc, dried over Na2SO4, and concentrated under vacuum. Compound was purified by normal phase HPLC on silica column, using as eluent 40% EtOAc/hexane, to afford the title compound as an off-white solid (3.03 g, 7.6 mmoles). Step 2: 3-(Naphthalene-1-sulfonylmethyl)-4-nitro-benzaldehyde A mixture of 2-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenyl]-[1,3]dioxolane (3.03 g, 7.6 mmoles), and 2N HCl (4 ml, 8 mmoles) in THF (30 mL) was stirred at 40° C. for 4 hours. The reaction mixture was cooled to room temperature, diluted with water, extracted with CH2Cl2, dried over Na2SO4, and concentrated under vacuum to yield the title compound (2.56 g, 7.22 mmoles). Step 3: 4-Amino-3-(naphthalene-1-sulfonylmethyl)-benzaldehyde A mixture of 3-(naphthalene-1-sulfonylmethyl)-4-nitro-benzaldehyde (2.5 g, 7.22 mmoles) and 10% Pd/C in THF (10 mL), and methanol (20 mL) was hydrogenated in a Parr hydrogenation bottle (250 mL) at 52 lb/in2 overnight. The mixture was filtered through Celite, and the filtrate was concentrated under vacuum to afford the title compound as an off-white solid (2.4 g, 6.85 mmoles). Step 4: 3-(Naphthalene-1-sulfonyl)-1H-indazole-5-carbaldehyde A mixture of 4-amino-3-(naphthalene-1-sulfonylmethyl)-benzaldehyde (2.4 g, 6.85 mmoles) in THF (10 mL) and 4M HCl (20 mL) was stirred in a round bottom flask at 3° C. A solution of sodium nitrite (0.49 g, 7.19 mmoles) in H2O (2 mL) was added. The reaction mixture was poured into a cold solution of saturated sodium bicarbonate (100 mL) and extracted with EtOAc. Compound was dried over Na2SO4, and concentrated under vacuum to afford the title compound as an off white solid (1.84 g, 5.5 mmoles). Step 5: 3-(1-Naphthylsulfonyl)-5-(piperazin-1-ylmethyl)-1H-indazole A mixture of 3-(naphthalene-1-sulfonyl)-1H-indazole-5-carbaldehyde (0.17 g, 0.5 mmol), piperazine (0.2 mL, 2.0 mmol) and sodium triacetoxyborohydride (0.15 g, 0.7 mmol) in dichloroethane (5 mL) was stirred at room temperature for 24 hrs. After completion, the solvent was removed in vacuo, crude material dispersed in water and pH brought to 3.4. Solid material was filtered off and washed with cold water to afford after drying the target material as a free base. The latter was converted into hydrochloride salt by dissolution in methanol, followed by treatment with the excess of 2N HCl and the evacuation of the volatiles in vacuo to afford the title compound as the hydrochloride salt, mp>200° C.; MS (ES) m/z 406.

reactant | 3-(Naphthalene-1-sulfonyl)-1H-indazole-5-carbaldehyde | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)C=O | C18H12N2O3S
reactant | 4-amino-3-(naphthalene-1-sulfonylmethyl)-benzaldehyde | 6.85 mmoles, 2.4 g | NC1=C(C=C(C=O)C=C1)CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C18H15NO3S
reactant | sodium nitrite | 7.19 mmoles, 0.49 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | HCl | 4M, 20 mL | Cl | ClH
solvent | H2O | 2 mL | O | H2O
product | 3-(1-Naphthylsulfonyl)-5-(piperazin-1-ylmethyl)-1H-indazole | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)CN1CCNCC1 | C22H22N4O2S
